US04831154
5-(Phenylmethyl)-3-(4-chlorophenyl)-3-(1H-imidazol-1-ylmethyl)-2-methylisoxazolidine (3: R1 =4-Cl, R2 =CH2C6H5)
A solution of 7.04 g (0.0282 mol) of 1-(4-chlorophenyl)-2-(1H-imidazol-1-yl)-N-methylethanimine N-oxide (1: R1 =4-Cl) [prepared by reacting 2-(1H-imidazol-1-yl)-4'-chloroacetophenone (45.05 g, 0.204 mol), N-methylhydroxylamine hydrochloride (20.93 g, 0.251 mol), and sodium acetate (41.13 g, 0.502 mol) in 550 ml of ethanol] and 3.95 g (0.0334 mol) of allylbenzene (2: R2 =CH2C6H5) in 100 ml toluene is refluxed for 30 hours under a nitrogen atmosphere. Upon cooling to room temperature, the solvent is removed in vacuo. The resulting cis-/trans-diastereomeric mixture of compound 3 (R1 =4-Cl, R2 =CH2C6H5 is flash-chromatographed on neutral silica gel using a 98:2 by volume mixture of chloroform and methanol as eluent to give 3.80 g (36%) of isomer A. Following crystallization from ether a melting point of 118°-120° C. is determined.

reactant | 1-(4-chlorophenyl)-2-(1H-imidazol-1-yl)-N-methylethanimine N-oxide | 0.0282 mol, 550 ml, 7.04 g | ClC1=CC=C(C=C1)C(CN1C=NC=C1)=[N+](C)[O-] | C12H12ClN3O
reactant | allylbenzene | 0.0334 mol, 3.95 g | C(C=C)C1=CC=CC=C1 | C9H10
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(Phenylmethyl)-3-(4-chlorophenyl)-3-(1H-imidazol-1-ylmethyl)-2-methylisoxazolidine | C1(=CC=CC=C1)CC1CC(N(O1)C)(CN1C=NC=C1)C1=CC=C(C=C1)Cl | C21H22ClN3O
